US07125865B2
A mixture of imidazolidine-2,4-dione (5.01 g), Cs2CO3, and 4-methoxybenzyl chloride (8.0 mL) in DMF (250 mL) was allowed to react overnight. The reaction was added to 400 mL brine then extracted with ether. The desired product precipitated from the ether, and was collected by filtration to yield 1-(4-methoxybenzyl)-imidazolidine-2,4-dione as a white solid.

reactant | imidazolidine-2,4-dione | 5.01 g | N1C(NC(C1)=O)=O | C3H4N2O2
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-methoxybenzyl chloride | 8.0 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | brine | 400 mL | [Cl-].[Na+].O
product | 1-(4-methoxybenzyl)-imidazolidine-2,4-dione | COC1=CC=C(CN2C(NC(C2)=O)=O)C=C1 | C11H12N2O3
